US05714487
7-Hydroxymethyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine
A suspension of 3.20 g (84.3 mmol) of lithium aluminum hydride in 30 mL of dry THF was cooled to 0° C. and treated dropwise with a solution of 8.00 g (27.7 mmol) of 7-methoxycarbonyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-1-one (Jones, R. C. F.; Howard, K. J. J. Chem. Soc., Perkin Trans. 1, 1993, 2391) in 80 mL of dry THF. After 30 min the reaction was carefully quenched with 3 mL of water, 3 mL of 15% NaOH and 9 of mL water. The mixture was filtered, the filtrate evaporated, the residue taken up in ethyl acetate and washed with brine. The organic layer was dried (magnesium sulfate), filtered, and evaporated to give 6.09 g (89%) of the title compound as a mixture of (7RS,8aSR)- and (7SR,8aSR)- isomers of sufficient purity for use in the next reaction (Preparation 2). m/z (MH+) 247.

reactant | lithium aluminum hydride | 84.3 mmol, 3.20 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-methoxycarbonyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-1-one | 27.7 mmol, 8.00 g | COC(=O)C1CC2N(CCN(C2=O)CC2=CC=CC=C2)C1 | C16H20N2O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 7-Hydroxymethyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 6.09 g, 89% | OCC1CC2N(CCN(C2)CC2=CC=CC=C2)C1 | C15H22N2O
